US07786114B2
The product is prepared by following the procedure described in example 51, starting with 0.075 g of tert-butyl 3-{[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amino}azetidine-1-carboxylate instead of the tert-butyl (2-{[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amino}ethyl)carbamate used in example 51 and 1.2 cm3 of 5N hydrochloric acid in dioxane. 0.077 g of azetidin-3-yl-[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amine hydrochloride is obtained with the following characteristics:

reactant | tert-butyl 3-{[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amino}azetidine-1-carboxylate | 0.075 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNC1CN(C1)C(=O)OC(C)(C)C)N2)OC | C26H32N6O4
reactant | hydrochloric acid | 5N, 1.2 cm3 | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | azetidin-3-yl-[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amine hydrochloride | 0.077 g | Cl.N1CC(C1)NCC1=C2C(=NC=C1)NC(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)C | InChI=1S/C21H24N6O2.ClH/c1-27-11-15(19-17(27)7-18(28-2)21(26-19)29-3)16-6-14-12(4-5-23-20(14)25-16)8-24-13-9-22-10-13;/h4-7,11,13,22,24H,8-10H2,1-3H3,(H,23,25);1H
